US07053099B1
d) 1-Benzyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one
The product of 2c above, 5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one (0.08 g, 0.33 mmol) was dissolved in dimethylformamide (3 mL) and stirred at room temperature under argon. Sodium hydride (0.0084 g, 0.35 mmol) was added and the mixture heated to 55° C. in an oil bath. Gas evolution occurred and a clear solution resulted. Benzyl bromide (0.060 g, 0.35 mmol) was added and the reaction mixture was heated at 55° C. for 1 hour. The solvent was evaporated in vacuo, to give the crude product which was flash chromatographed on silica gel eluted with 0–4% methanol in methylene chloride to give a white amorphous solid. Recrystallization from ethyl acetate hexane gave the title compound as a white crystalline compound. mp 171–173° C.

reactant | 5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one | 0.33 mmol, 0.08 g | O(C1=CC=CC=C1)C1=C2CNC(NC2=CC=C1)=O | C14H12N2O2
reactant | Sodium hydride | 0.35 mmol, 0.0084 g | [H-].[Na+]
reactant | Benzyl bromide | 0.35 mmol, 0.060 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-Benzyl-5-phenoxy-3,4-dihydro-(1H)-quinazolin-2-one | C(C1=CC=CC=C1)N1C(NCC2=C(C=CC=C12)OC1=CC=CC=C1)=O | C21H18N2O2
